US07968570B2
CuI (0.076 g, 0.4 mmol) and potassium fluoride (0.055 g, 0.29 mmol) were added under an N2 atmosphere to a solution 5-chloro-2-(4-methoxy-benzyl)-7-iodo-2,3-dihydro-isoindol-1-one (0.100 g, 0.24 mmol) and chloro-difluoro-acetic acid methyl ester (0.031 mL, 0.29 mmol) in DMF (4 mL). The mixture was stirred at 140° C. for 18 h. The reaction was cooled and the solvent evaporated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-chloro-2-(4-methoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.042 g, 50%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.79 (s, 3H), 4.25 (s, 2H), 4.72 (s, 2H) 6.86 (d, 2H), 7.25 (d, 2H), 7.56 (s, 1H), 7.73 (s, 1H). GC-MS: m/z 355 (M)+, 334 (M−21)+.

reactant | potassium fluoride | 0.29 mmol, 0.055 g | [F-].[K+]
reactant | 5-chloro-2-(4-methoxy-benzyl)-7-iodo-2,3-dihydro-isoindol-1-one | 0.24 mmol, 0.100 g | ClC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)OC | C16H13ClINO2
reactant | chloro-difluoro-acetic acid methyl ester | 0.29 mmol, 0.031 mL | COC(C(F)(F)Cl)=O | C3H3ClF2O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.4 mmol, 0.076 g | [Cu]I
product | 5-chloro-2-(4-methoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.042 g, 50% | ClC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC | C17H13ClF3NO2
